US07659267B2
Methyl 2-(ethylamino)-4-(4-oxo-4H-1,3-benzothiazin-2-yl)benzoate
A mixture of methyl 4-cyano-2-(ethylamino)benzoate (1.23 g, 6.02 mmol), methyl thiosalicylate (1.52 g, 9.04 mmol), triethylamine (1.7 mL, 12 mmol) and xylene (6 mL) was stirred at 145° C. for 18 hours under a nitrogen flow. After the reaction mixture was allowed to cool, the crystals were taken by filtration and recrystallized from methanol to give the title compound (450 mg, 22%).

reactant | methyl 4-cyano-2-(ethylamino)benzoate | 6.02 mmol, 1.23 g | C(#N)C1=CC(=C(C(=O)OC)C=C1)NCC | C11H12N2O2
reactant | methyl thiosalicylate | 9.04 mmol, 1.52 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 12 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
solvent | xylene | 6 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 2-(ethylamino)-4-(4-oxo-4H-1,3-benzothiazin-2-yl)benzoate | 450 mg, 22% | C(C)NC1=C(C(=O)OC)C=CC(=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C18H16N2O3S
